US04572912
(a) 5-[4-(6-Acetoxy-2,7-dimethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione
The reactions described in Example 1(a) were repeated, except that 1.5 g of ethyl 3-[4-(6-acetoxy-2,7-dimethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate, 300 mg of thiourea and 2 ml of sulfolane were heated at 120° C. for 2 hours. The reaction mixture was then purified by adding diethyl ether to the reaction mixture, and distilling off the solvent to leave a residue. This residue was purified by column chromatography through silica gel eluted first with a 9:1 by volume mixture of benzene and ethyl acetate, to give the title compound.

reactant | ethyl 3-[4-(6-acetoxy-2,7-dimethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate | 1.5 g | C(C)(=O)OC=1C=C2CCC(OC2=CC1C)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl | C25H29ClO6
reactant | thiourea | 300 mg | NC(=S)N | CH4N2S
reactant | sulfolane | 2 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 5-[4-(6-Acetoxy-2,7-dimethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | C(C)(=O)OC=1C=C2CCC(OC2=CC1C)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C24H25NO6S
